US04315016
1-p-chlorophenyl-2-(1,2,4-triazol-1-yl)ethanol (Compound 18)
A suspension of α-1,2,4-triazol-1-yl-p-chloroacetophenone (4 g) in methanol (12 ml) was treated with sodium borohydride (0.5 g) with cooling and stirring. The mixture was then left at room temperature for 0.5 hour and refluxed for 1 hour. The methanol was removed under reduced pressure and water (25 ml) was added followed by dilute hydrochloric acid (10 ml). The white solid was filtered, washed with water and dried. Crystallisation from ethyl acetate-petroleum ether (60°-80°) gave the title compound as a white crystalline solid.

reactant | α-1,2,4-triazol-1-yl-p-chloroacetophenone | 4 g | N1(N=CN=C1)CC(=O)C1=CC=C(C=C1)Cl | C10H8ClN3O
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
product | 1-p-chlorophenyl-2-(1,2,4-triazol-1-yl)ethanol | ClC1=CC=C(C=C1)C(CN1N=CN=C1)O | C10H10ClN3O
